US08748604B2
A mixture of aqueous glyoxalic acid (200 g; 50% w/v), L-menthol (632.4 g) and concentrated sulfuric acid (3.5 g) in cyclohexane (600 mL) was refluxed at 80° C. to 85° C. for 3 to 4 hours. Water (115 mL) was removed by azeotropic distillation using a Dean Stark trap. The resulting solution was allowed to cool to room temperature and diluted with de-ionized water (500 mL). The organic layer was separated and diluted with de-ionized water (800 mL). The pH of the resultant mixture was adjusted to 5 using aqueous sodium carbonate (10%; 15 ml). The organic layer was separated and washed twice with aqueous sodium bisulfite (2×70 g in 2×800 mL of de-ionized water). The pH of the organic layer was again adjusted to 5 using aqueous sodium carbonate (10%; 20 ml) and aqueous solution of formaldehyde (130 mL) was added to it in one hour at room temperature. The pH of the resultant mixture was again adjusted to 7.5 using aqueous sodium carbonate (10%; 15 ml) and stirred for about 6 hours at room temperature. The suspension obtained was filtered and washed with de-ionized water (2×200 mL) at room temperature. The wet mass obtained was suspended in de-ionized water (1000 mL) and stirred for 2 hours at 40° C. to 45° C. The resultant mixture was cooled to 20° C. to 25° C. and stirred at the same temperature for one hour. The suspension was filtered and washed with de-ionized water (200 mL) at room temperature to give menthyl glyoxalate as wet mass.

reactant | glyoxalic acid | 200 g | C(C=O)(=O)O | C2H2O3
reactant | L-menthol | 632.4 g | C[C@@H]1CC[C@H]([C@@H](C1)O)C(C)C | C10H20O
reactant | sulfuric acid | 3.5 g | S(O)(O)(=O)=O | H2O4S
solvent | cyclohexane | 600 mL | C1CCCCC1 | C6H12
solvent | water | 1000 mL | O | H2O
product | menthyl glyoxalate | C(C=O)(=O)OC1CC(CCC1C(C)C)C | C12H20O3
